US08754226B2
(S)-tert-Butyl 4-(3-(2-fluoro-4-(methylsulfonyl)phenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (1.6 g, 3.5 mmol) was dissolved in CH2Cl2 (20 mL) and 4N HCl in dioxane (˜15 mL) was added and stirred at ambient temperature overnight. The reaction was concentrated to afford (S)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride (1.5 g, 3.8 mmol, 109% yield) as a white solid. Mass spectrum (apci) m/z=357.2 (M+H).

reactant | (S)-tert-Butyl 4-(3-(2-fluoro-4-(methylsulfonyl)phenoxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 3.5 mmol, 1.6 g | FC1=C(O[C@@H]2C(N(CC2)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C=CC(=C1)S(=O)(=O)C | C21H29FN2O6S
reactant | HCl | 4N | Cl | ClH
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | ˜15 mL | O1CCOCC1 | C4H8O2
product | (S)-3-(2-fluoro-4-(methylsulfonyl)phenoxy)-1-(piperidin-4-yl)pyrrolidin-2-one hydrochloride | 3.8 mmol, 1.5 g, 109% yield | Cl.FC1=C(O[C@@H]2C(N(CC2)C2CCNCC2)=O)C=CC(=C1)S(=O)(=O)C | InChI=1S/C16H21FN2O4S.ClH/c1-24(21,22)12-2-3-14(13(17)10-12)23-15-6-9-19(16(15)20)11-4-7-18-8-5-11;/h2-3,10-11,15,18H,4-9H2,1H3;1H/t15-;/m0./s1
